US07217723B2
5-Chlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide
To a solution of 2,5-dichlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide (1.14 g) in tetrahydrofuran (10 mL) was added dropwise a solution of 1.59M n-butyl lithium-hexane (2.3 mL) on an ice bath. After stirring for 30 minutes, an aqueous solution of saturated ammonium chloride was poured. After diluting with water, the solution was extracted with ethyl acetate. After the organic layer was washed with saturated sodium chloride water, and was dried with anhydrous sodium sulfate. The residue that was obtained upon removing the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (pale yellow oily substance) (939 mg) was obtained (contains impurities).

reactant | 2,5-dichlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 1.14 g | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=C(SC(=C1)Cl)Cl)C | C13H12Cl2FNO2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-Chlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 939 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)Cl)C | C13H13ClFNO2S2
